US07977477B2
To a mixture of 2,6-difluoro-N-[3-(5-formyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (75.0 mg, 0.20 mmol) in anhydrous THF (5 ml) stirring at ambient temperature was successively added 3 Å molecular sieves, morpholine (35 μL, 0.40 mmol) and triacetoxy sodiumborohydride (127 mg, 0.60 mmol). The mixture was stirred for 4 h, MeOH (3 ml) added and then the mixture reduced in vacuo. The residue was taken up in EtOAc, washed with water and brine, dried (MgSO4), reduced in vacuo and then purified through preparative LC/MS to give 2,6-difluoro-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide (9 mg, 10%) as a white solid. (LC/MS: Rt 1.90, [M+H]+ 439.09).

reactant | 2,6-difluoro-N-[3-(5-formyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 0.20 mmol, 75.0 mg | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)C=O)C(=CC=C1)F | C18H11F2N5O2
reactant | morpholine | 0.40 mmol, 35 μL | N1CCOCC1 | C4H9NO
reactant | MeOH | 3 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2,6-difluoro-N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-benzamide | 9 mg, 10% | FC1=C(C(=O)NC=2C(=NNC2)C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C(=CC=C1)F | C22H20F2N6O2
